US07816522B2
After adding 38 mg of 3-hydrazinothiophene-2-carboxylic acid methyl ester and 0.030 ml of triethylamine to a solution of 100 mg of {2-(5,6-dimethoxypyridin-3-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester in 1 ml of DMF, the mixture was stirred at 90° C. for 12 hours under a nitrogen atmosphere. The reaction mixture was concentrated, and the residue was dissolved in 1.5 ml of methanol and 0.1 ml of acetic acid. After adding 100 mg of sodium cyanotrihydroborate to the solution, the mixture was stirred at room temperature for 3 hours. Next, 1.0 ml of a 5N aqueous sodium hydroxide solution was added and the mixture was stirred at room temperature for 2 hours. After then adding 0.3 ml of acetic acid, the reaction mixture was crudely purified by reverse-phase high performance liquid chromatography (acetonitrile-water, 0.1% acetic acid) to give a crude product of 3-(3-{(5,6-dimethoxypyridin-3-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)thiophene-2-carboxylic acid.

reactant | 3-hydrazinothiophene-2-carboxylic acid methyl ester | 38 mg | COC(=O)C=1SC=CC1NN | C6H8N2O2S
reactant | triethylamine | 0.030 ml | C(C)N(CC)CC | C6H15N
reactant | {2-(5,6-dimethoxypyridin-3-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 100 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C=1C=NC(=C(C1)OC)OC)SC)=O | C21H21N5O5S
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 3-(3-{(5,6-dimethoxypyridin-3-yl)-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]methyl}-5-oxo-4,5-dihydro-[1,2,4]triazol-1-yl)thiophene-2-carboxylic acid | COC=1C=C(C=NC1OC)C(C1=NN(C(N1)=O)C1=C(SC=C1)C(=O)O)NC1=CC=C(C=C1)C1=NOC(=N1)C | C24H21N7O6S
